### PR TITLE
adding nix toolbox + shorten proofs

### PR DESCRIPTION
**Pull request by CohenCyril**

### CODE REVIEW

File: theories/stablesort.v [hunk 1]
```diff
@@ -98,7 +101,6 @@ by case: b; rewrite /= ?perm_rev perm_merge -?rev_cat ?perm_rev perm_cat.
 Qed.
 
 Definition sort_ty := forall T : Type, rel T -> seq T -> seq T.
-
 Parametricity sort_ty.
```
Comment (pi8027) [inline theories/stablesort.v:104]: I found that we can also write:
```suggestion
Parametricity Translation
  (forall T : Type, rel T -> seq T -> seq T) as sort_ty_R.
```
This way, we don't have to introduce a constant `sort_ty`.

File: theories/stablesort.v [hunk 2]
```diff
@@ -130,6 +132,21 @@ End Exports.
 End StableSort.
 Export StableSort.Exports.
 
+Declare Custom Entry trace.
```
Comment (pi8027) [inline theories/stablesort.v:135]: Do you really need this line?

File: theories/stablesort.v [hunk 3]
```diff
@@ -977,10 +979,7 @@ Qed.
 Lemma sort_stable (T : Type) (leT leT' : rel T) :
   total leT -> transitive leT' -> forall s : seq T, sorted leT' s ->
   sorted (lexord leT leT') (sort _ leT s).
-Proof.
-move=> leT_total leT'_tr s; rewrite sorted_pairwise //.
-exact: sort_pairwise_stable.
-Qed.
+Proof. by move=> ? ? s; rewrite sorted_pairwise//; apply: sort_pairwise_stable. Qed.
```
Comment (pi8027) [inline theories/stablesort.v:982]: This line has more than 80 characters, which I want to avoid.

**Review by pi8027 — COMMENTED** [review]
Thanks for the great improvement! I have a few comments.

File: theories/stablesort.v (hunk 2 above)
Comment (CohenCyril) [reply theories/stablesort.v:135]: Deadcode, my bad

File: theories/stablesort.v (hunk 3 above)
Comment (CohenCyril) [reply theories/stablesort.v:982]: Woops. Thanks

**Review by pi8027 — APPROVED** [review]
